US09101616B2
Step-3: (R,E)-N-((5-(cyclopropylmethoxy)pyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide
To a solution of (5-(cyclopropylmethoxy)pyridin-2-yl)methanol (4.5 g, 25 mmol) in dichloromethane (50 ml), was added a 15% potassium bromide aqueous solution (20 mL) followed by a saturated bicarbonate solution (20 ml). The biphasic mixture was cooled in an ice bath and TEMPO (200 mg, 1.3 mmol) was added. After stirring for 10 min, 5% sodium hypochlorite (30 ml) was dropwised. The reaction mixture was stirred for 10 min. The solution was poured into a separatory funnel and the organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was dissolved in dichloromethane (50 mL). Copper(II) sulfate (10.1 g, 63 mmol) followed by (R)-(+)-2-methyl-2-propanesulfinamide (3.1 g, 25 mmol) were added to the mixture respectively and the mixture was stirred for 18 hours at room temperature. The reaction mixture was filtrated off and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (1:1 (v/v)) to give 6.2 g (87% yield) of the title compound as a flaky solid:

reactant | (5-(cyclopropylmethoxy)pyridin-2-yl)methanol | 25 mmol, 4.5 g | C1(CC1)COC=1C=CC(=NC1)CO | C10H13NO2
reactant | potassium bromide | 20 mL | [Br-].[K+]
reactant | bicarbonate | 20 ml | C([O-])(O)=O
reactant | sodium hypochlorite | 30 ml | Cl[O-].[Na+]
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | 25 mmol, 3.1 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | Copper(II) sulfate | 63 mmol, 10.1 g | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | TEMPO | 1.3 mmol, 200 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | (R,E)-N-((5-(cyclopropylmethoxy)pyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide | 6.2 g, 87% yield | C1(CC1)COC=1C=CC(=NC1)\C=N\[S@](=O)C(C)(C)C | C14H20N2O2S
